US07728025B2
(Step 5) Production of N-(4-((4R)-4-((tert-butyl(dimethyl)silyl)oxy)-pentanoyl)-3-fluorophenyl)pyrazine-2-carboxamide
100 mg of 10% palladium-carbon catalyst was added to a solution of 513 mg of N-(4-((4R)-4-((tert-butyl(dimethyl)silyl)oxy)-2-pentynoyl)-3-fluorophenyl)pyrazine-2-carboxamide in 5 ml of tetrahydrofuran and 20 ml of ethanol, and the reaction liquid was stirred in a hydrogen atmosphere for 1.5 hours. The catalyst was removed through filtration, the solvent was evaporated away under reduced pressure, and the resulting residue was purified through silica gel column chromatography (developing solvent: hexane/ethyl acetate=9/1 to 1/1) to obtain the entitled compound as a pale yellow solid.

reactant | N-(4-((4R)-4-((tert-butyl(dimethyl)silyl)oxy)-2-pentynoyl)-3-fluorophenyl)pyrazine-2-carboxamide | 513 mg | [Si](C)(C)(C(C)(C)C)O[C@@H](C#CC(=O)C1=C(C=C(C=C1)NC(=O)C1=NC=CN=C1)F)C | C22H26FN3O3Si
reactant | hydrogen | [H][H] | H2
catalyst | palladium-carbon | 100 mg | [C].[Pd]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | N-(4-((4R)-4-((tert-butyl(dimethyl)silyl)oxy)-pentanoyl)-3-fluorophenyl)pyrazine-2-carboxamide | [Si](C)(C)(C(C)(C)C)O[C@@H](CCC(=O)C1=C(C=C(C=C1)NC(=O)C1=NC=CN=C1)F)C | C22H30FN3O3Si
